US04698340
A mixture of ethyl 6-methyl-4-(3-nitrophenyl)-2-phenyl-5-pyrimidinecarboxylate (2 g) and ethyleneglycol (8 ml) was stirred for 50 hours at 90°. The reaction mixture was poured into a mixture of water (50 ml), ethyl acetate (50 ml) and tetrahydrofuran (50 ml). The solvent was distilled off. The residue was chromatographed on silica gel, eluting with a mixture of n-hexane and ethyl acetate (10:1). The fractions containing the object compound were combined and concentrated in vacuo. The crystalline residue was recrystallized from diethyl ether to afford 2-hydroxyethyl 6-methyl-4-(3-nitrophenyl)-2-phenyl-5-pyrimidinecarboxylate.

reactant | ethyl 6-methyl-4-(3-nitrophenyl)-2-phenyl-5-pyrimidinecarboxylate | 2 g | CC1=C(C(=NC(=N1)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC | C20H17N3O4
reactant | ethyleneglycol | 8 ml | C(CO)O | C2H6O2
reactant | water | 50 ml | O | H2O
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-hydroxyethyl 6-methyl-4-(3-nitrophenyl)-2-phenyl-5-pyrimidinecarboxylate | CC1=C(C(=NC(=N1)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCO | C20H17N3O5
